US08470859B2
5-bromo-1-(3-chlorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-bromonicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 3-chlorobenzylbromide (0.17 g), and the mixture was stirred at 80° C. for 4 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (0.05 g).

reactant | 2-amino-5-bromonicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Br | C6H6BrN3O
reactant | 3-chlorobenzylbromide | 0.17 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-1-(3-chlorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 0.05 g | Br.BrC=1C=C(C(N(C1)CC1=CC(=CC=C1)Cl)=N)C(=O)N | InChI=1S/C13H11BrClN3O.BrH/c14-9-5-11(13(17)19)12(16)18(7-9)6-8-2-1-3-10(15)4-8;/h1-5,7,16H,6H2,(H2,17,19);1H
